US07612075B2
C. 1,4-Bis-(1H-pyrrolo[3 2-c]pyridin-2-ylmethyl)-piperazin-2-one.
To a solution containing 2-[4-(1-tert-Butoxycarbonyl-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxo-piperazin-1-ylmethyl]-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (85 mg, 0.14 mmol) in CH2Cl2 (5 mL) is added TFA (1 mL) at 0° C. and the solution is allowed to slowly warm to ambient temperature. After 16 h, the reaction mixture is concentrated to dryness, diluted with water and purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 45% B over 30 min] to provide 35 mg (36%, two steps) of the title compound as a pale yellow, lyophilized solid.

reactant | 2-[4-(1-tert-Butoxycarbonyl-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxo-piperazin-1-ylmethyl]-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 85 mg | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2)CC2=CC=1C=NC=CC1N2C(=O)OC(C)(C)C)=O | C30H36N6O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1,4-Bis-(1H-pyrrolo[3 2-c]pyridin-2-ylmethyl)-piperazin-2-one | N1C(=CC=2C=NC=CC21)CN2C(CN(CC2)CC2=CC=1C=NC=CC1N2)=O | C20H20N6O
